US07446199B2
5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, (300 mg, 0.85 mmol), vinylboronic acid dibutylester, (184 mg, 1.0 mmol), potassium carbonate, (420 mg, 3.0 mmol) and Pd(Ph3P)4 were combined in 3 mL DME and 1 mL water in a tube under nitrogen and heated in a microwave reactor to 130° C. for 10 min. The organic layer was then separated and evaporated. The residue was purified by silica chromatography (eluent: methylene chloride), affording 215 mg(85%) 1-(Toluene-4-sulfonyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine. MS ES+ 299.0.

reactant | 5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.85 mmol, 300 mg | BrC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11BrN2O2S
reactant | vinylboronic acid dibutylester | 1.0 mmol, 184 mg | C(CCC)OB(OCCCC)C=C | C10H21BO2
reactant | potassium carbonate | 3.0 mmol, 420 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(Toluene-4-sulfonyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 215 mg, 85% | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=C)C | C16H14N2O2S
